US07745641B2
In a similar manner to Step 2 of Example 6, 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (104 mg, 0.189 mmol) was dissolved in acetonitrile (5.2 mL), and the solution was treated with 1-(2-hydroxyethyl)piperazine (98 mg, 0.756 mmol), acetic acid (0.216 mL, 3.78 mmol) and sodium triacetoxyborohydride (160 mg, 0.756 mmol). The reaction mixture was added with water and sodium carbonate, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-[3-(tert-butoxycarbonylamino)propoxy]-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]indol-2-yl}isoindolinone (86.5 mg, yield 69%).

reactant | 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.189 mmol, 104 mg | C(C)(C)(C)OC(=O)NCCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C30H35N3O7
reactant | 1-(2-hydroxyethyl)piperazine | 0.756 mmol, 98 mg | OCCN1CCNCC1 | C6H14N2O
reactant | acetic acid | 3.78 mmol, 0.216 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.756 mmol, 160 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 5.2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-[3-(tert-butoxycarbonylamino)propoxy]-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]indol-2-yl}isoindolinone | 86.5 mg, yield 69% | C(C)(C)(C)OC(=O)NCCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C)=O | C36H49N5O7
